US05064649
(b) 2-Oxotetrahydrofuran-3-ylidenetriphenylphosphorane.
2-Oxotetrahydrofuran-3-yltriphenylphosphonium bromide (1.717 g) was dissolved in water (20 mls) and the solution filtered through kieselguhr. The pH was adjusted to 7.5 with 5M sodium hydroxide. The greyish precipitate was filtered off, washed with 50% ether/acetone and dried, to give the title compound as an off white solid, (0.77 g, 55%), (Found; M+, 346.1124. C22H19O2P requires M, 346.1123); νmax (CH2Cl2) 1645, 1480(w), 1430(w), 1365(w) and 1315(w)cm-1 ; δH (CDCl3) 2.62 (2H, t, 7Hz), 4.27 (2H, t, J 7Hz) and 7.3-7.9 (15H, m).

reactant | 2-Oxotetrahydrofuran-3-yltriphenylphosphonium bromide | 1.717 g | [Br-].O=C1OCCC1[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 20 mls | O | H2O
product | 2-Oxotetrahydrofuran-3-ylidenetriphenylphosphorane | O=C1OCCC1=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19O2P
